US06753391B1
Preparation of 2-(2-Bromo-propionylamino)-2-methyl-propionic acid
To a stirring mixture of 2-aminoisobutyric acid (52.08 g; 0.51 mol), sodium hydroxide (20.20 g; 0.51 mol), 200 mL water and 50 mL chloroform cooled to −12° C., was added a solution of 2-bromopropionyl bromide (100 g; 0.463 mol) in 150 mL chloroform. The temperature was maintained between −15 to −12° C. during the addition. The reaction mixture was then allowed to warm to room temperature and stirred for 17 hours. The precipitated solid was filtered, mixed with 700 mL hot toluene, then cooled to room temperature. The solid was filtered and dried under vacuum to afford 77.6 g (70%) of product.

reactant | 2-aminoisobutyric acid | 0.51 mol, 52.08 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | sodium hydroxide | 0.51 mol, 20.20 g | [OH-].[Na+]
reactant | water | 200 mL | O | H2O
reactant | 2-bromopropionyl bromide | 0.463 mol, 100 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Bromo-propionylamino)-2-methyl-propionic acid | 77.6 g, 70% | BrC(C(=O)NC(C(=O)O)(C)C)C | C7H12BrNO3
